US03979369
Bis-dithiocarbamates from primary amines are similarly prepared. For example, addition of 1,2-ethanedisulfenyl chloride solution to an aqueous solution of sodium benzyldithiocarbamate gives nearly a quantitative yield of 1,2-bis(N-benzylthiocarbamoyldithio)ethane, m.p. 105°-110°C, decom., NMR 7.3 singlet, 4.9 mult., 3.4 singlet and 3.15 singlet.

reactant | 1,2-ethanedisulfenyl chloride | C(CSCl)SCl | C2H4Cl2S2
reactant | sodium benzyldithiocarbamate | C(C1=CC=CC=C1)NC([S-])=S.[Na+]
product | 1,2-bis(N-benzylthiocarbamoyldithio)ethane | quantitative yield | C(C1=CC=CC=C1)NC(=S)SSCCSSC(NCC1=CC=CC=C1)=S | C18H20N2S6
